### PR TITLE
feat: more work on restricted product Haar character stuff

### PR DESCRIPTION
**Pull request by kbuzzard**

### CODE REVIEW

File: FLT/HaarMeasure/HaarChar/AddEquiv.lean [hunk 1]
```diff
@@ -138,6 +139,31 @@ lemma mulEquivHaarChar_trans {φ ψ : G ≃ₜ* G} :
   sorry -- FLT#511
   -- use `MeasureTheory.Measure.haarScalarFactor_eq_mul`?
 
+open ENNReal in
+lemma mulEquivHaarChar_eq_one_of_CompactSpace [CompactSpace G] (φ : G ≃ₜ* G) :
```
Comment (Ruben-VandeVelde) [inline FLT/HaarMeasure/HaarChar/AddEquiv.lean:143]:
```suggestion
lemma mulEquivHaarChar_eq_one_of_compactSpace [CompactSpace G] (φ : G ≃ₜ* G) :
```

File: FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 2]
```diff
@@ -0,0 +1,136 @@
+import Mathlib.Topology.Algebra.RestrictedProduct
+import Mathlib.Topology.Algebra.ContinuousMonoidHom
+import Mathlib.Algebra.Group.Submonoid.Units
+
+
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/RestrictedProduct.lean:5]:
```suggestion
```

File: FLT/HaarMeasure/HaarChar/AddEquiv.lean [hunk 3]
```diff
@@ -206,104 +272,66 @@ lemma mulEquivHaarChar_piCongrRight [Fintype ι] (ψ : Π i, (H i) ≃ₜ* (H i)
...
-  toFun x := ⟨fun i ↦ φ i (x i), sorry⟩
-  invFun y := ⟨fun i ↦ (φ i).symm (y i), sorry⟩
-  left_inv _ := by ext; simp
-  right_inv _ := by ext; simp
-  map_mul' x₁ x₂ := by ext; simp
-  continuous_toFun := sorry
-  continuous_invFun := sorry
-
-open Topology in
+open Pointwise in
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/AddEquiv.lean:297]:
```suggestion
open Pointwise in
-- TODO this should be elsewhere
```

File: blueprint/src/chapter/HaarCharacterProject.tex [hunk 4]
```diff
@@ -377,7 +420,7 @@ \section{Left and right multiplication}
   \lean{IsSimpleRing.ringHaarChar_eq_addEquivAddHaarChar_mulRight}
   \leanok
   If $B$ is a central simple algebra over a locally compact field $F$, and if $u\in B^\times$,
-  then $\delta_B(u):=d_B(\ell_u)$ is equal to $d_B(r_u)$.
+  then $d_B(r_u)-\delta_B(u)$ (recall that the latter is defined to mean $d_B(\ell_u)$).
```
Comment (kbuzzard) [inline blueprint/src/chapter/HaarCharacterProject.tex:423]:
```suggestion
  then $d_B(r_u)=\delta_B(u)$ (recall that the latter is defined to mean $d_B(\ell_u)$).
```
